US07022725B2
To a solution of methyl 3-[5-(1,3-benzodioxol-5-yl)-4-isoxazolyl]propionate (2.70 g) in tetrahydrofuran (30 ml) was gently added diisobutylaluminum hydride (1.0 M hexane solution, 25 ml) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 3-[5-(1,3-benzodioxol-5-yl)-4-isoxazolyl]propan-1-ol (2.33 g, yield 96%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2: 1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 45–46° C.

reactant | methyl 3-[5-(1,3-benzodioxol-5-yl)-4-isoxazolyl]propionate | 2.70 g | O1COC2=C1C=CC(=C2)C2=C(C=NO2)CCC(=O)OC | C14H13NO5
reactant | diisobutylaluminum hydride | 1.0 M, 25 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[5-(1,3-benzodioxol-5-yl)-4-isoxazolyl]propan-1-ol | 2.33 g, yield 96% | O1COC2=C1C=CC(=C2)C2=C(C=NO2)CCCO | C13H13NO4
